US04377586
2-(4-butylphenyl)-6-(4-chlorophenyl)-4-pyridinecarboxylic acid (Formula III: X21 is chloro, X31 is n-butyl, X41, X50, R10, and R20 are hydrogen)
A mixture of 8.65 g (0.026 mole) of the appropriate pyridinium salt, 5.25 g (0.025 mole) of p-chlorobenzoylacrylic acid and 13.5 g of ammonium acetate in 25 ml of methanol, 25 ml of glacial acetic acid, and 5 ml of acetic anhydride is heated at reflux for 2.5 hr. The mixture is worked up as in the preceding Examples and recrystallized from methanol:acetic acid:water to yield 2.4 g (26%) of the titled crystals with melting point of 209°-210° C. The C:H:N ratio is 72.19:5.54:3.95.

reactant | p-chlorobenzoylacrylic acid | 0.025 mole, 5.25 g | ClC1=CC=C(C(=O)C(C(=O)O)=C)C=C1 | C10H7ClO3
reactant | ammonium acetate | 13.5 g | C(C)(=O)[O-].[NH4+]
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
product | 2-(4-butylphenyl)-6-(4-chlorophenyl)-4-pyridinecarboxylic acid | 2.4 g, 26% | C(CCC)C1=CC=C(C=C1)C1=NC(=CC(=C1)C(=O)O)C1=CC=C(C=C1)Cl | C22H20ClNO2
